### PR TITLE
chore(Analysis): use `autoParam` for `positivity` goals

### PR DESCRIPTION
**Pull request by mcdoll**
The tactic `fun_prop` can now automatically discharge auto parameters. We add autoparams for a few `positivity` goals so that they can be proved by `fun_prop`.

---

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 1]
```diff
@@ -521,8 +521,7 @@ theorem eLpNorm'_norm_rpow (f : α → F) (p q : ℝ) (hq_pos : 0 < q) :
 theorem eLpNorm_enorm_rpow {ε : Type*} [TopologicalSpace ε] [ContinuousENorm ε] (f : α → ε)
     (hf : AEStronglyMeasurable f μ) (hq_pos : 0 < q) :
     eLpNorm (‖f ·‖ₑ ^ q) p μ = eLpNorm f (p * ENNReal.ofReal q) μ ^ q := by
-  have hfrpow : AEStronglyMeasurable (‖f ·‖ₑ ^ q) μ :=
-    ENNReal.continuous_rpow_const.comp_aestronglyMeasurable hf.enorm.aestronglyMeasurable
+  have hfrpow : AEStronglyMeasurable (‖f ·‖ₑ ^ q) μ := by fun_prop
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:524]: For the record: this already worked before this PR.

**Comment by grunweg** [comment]
Thanks! I think this is reasonable, but will give another maintainer another chance to weigh in. If nobody did so in 48h, I'll merge. (Feel free to remind me of this.)
maintainer merge?
